US06946467B2
A solution of Boc2O (26 g, 120 mmol) in methylene chloride (50 mL) was slowly added to a solution of ethyl piperazin-1-ylacetate (20 g, 116 mmol) in CH2Cl2 (500 mL). The mixture was stirred for 1 h at room temperature. The solvent was removed under vacuum to provide ethyl 4-Boc-piperazin-1-ylacetate (31.9 g, 100%) as a white solid.

reactant | Boc2O | 120 mmol, 26 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl piperazin-1-ylacetate | 116 mmol, 20 g | N1(CCNCC1)CC(=O)OCC | C8H16N2O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4-Boc-piperazin-1-ylacetate | 31.9 g, 100% | C(=O)(OC(C)(C)C)N1CCN(CC1)CC(=O)OCC | C13H24N2O4
